US06124277
By a method substantially equivalent to that described in Example 2-A; 13.6 g (55%) of N(CH2CH2CH2COOEt)Gly-O-t-Bu were prepared from t-butyl bromoacetate and ethyl 4-amino-butyrate hydrochloride.

reactant | t-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ethyl 4-amino-butyrate hydrochloride | Cl.NCCCC(=O)OCC
product | N(CH2CH2CH2COOEt)Gly-O-t-Bu | 13.6 g, 55% | N(CC(=O)OC(C)(C)C)CCCC(=O)OCC | C12H23NO4
